sky130_fd_sc_hd__inv_4
*
* top_sky130_fd_sc_hd__inv_4.spi
* ngspice simulation
* 

*****************
.option  nopage nomod
+        newtol numdgt=7 ingold=2 gmindc=1e-18
.option DOTNODE
.option MSGNODE = 0

.TEMP 25

******************
* BSIM4 transistor model parameters for ngspice
*
* nfet_01v8
.include /users/soft/freepdks/src/skywater-pdk/libraries/sky130_fd_pr/latest/cells/nfet_01v8/sky130_fd_pr__nfet_01v8__mismatch.corner.spice
.include /users/soft/freepdks/src/skywater-pdk/libraries/sky130_fd_pr/latest/cells/nfet_01v8/sky130_fd_pr__nfet_01v8__tt.corner.spice
* pfet_01v8_hvt
.include /users/soft/freepdks/src/skywater-pdk/libraries/sky130_fd_pr/latest/cells/pfet_01v8_hvt/sky130_fd_pr__pfet_01v8_hvt__mismatch.corner.spice
.include /users/soft/freepdks/src/skywater-pdk/libraries/sky130_fd_pr/latest/cells/pfet_01v8_hvt/sky130_fd_pr__pfet_01v8_hvt__tt.corner.spice

*******************************
*Simulation conditions

Vground evss 0 0
Vsupply evdd 0 DC 1.8
gfoncd evdd 0 evdd 0 1.0e-15

******************
* circuit model
* include circuit netlist
.INCLUDE sky130_fd_sc_hd__inv_4.spice
*****************

*****************
* Circuit Instantiation
*subckt sky130_fd_sc_hd__inv_4 A VGND VNB VPB VPWR Y

Xc in evss evss evdd evdd out  sky130_fd_sc_hd__inv_4

*input
vin in evss dc 0.8 pulse (0 1.8 50ps 8ps 8ps 42ps 100ps)

*loading output
Cload out evss 0.0020pF


* transient analysis *
.control
TRAN 1ps 300ps 0 

set width=110

meas tran inputRslope TRIG v(in) val=0.001 RISE=1 TARG v(in) VAL=1.799 RISE=1
meas tran inputFslope TRIG v(in) val=1.799 FALL=1 TARG v(in) VAL=0.001 FALL=1
meas tran proptimeRF TRIG v(in) val=0.9 RISE=1 TARG v(out) VAL=0.9 FALL=1
meas tran proptimeFR TRIG v(in) val=0.9 FALL=1 TARG v(out) VAL=0.9 RISE=1

gnuplot res v(in) v(out)
+ title 'input and output of the inverter'
+ xlabel 'time / s' ylabel 'ResultOutput / V' 

.endc



.end

